US08309721B2
Synthesis of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-(2-hydroxy-2-methylpropylamino)benzamide
The process is carried out as in stage 3 of Example 3, but using 150 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 148 mg of potassium carbonate and 0.477 g of 1-amino-2-methylpropan-2-ol in 2 ml of dimethyl sulphoxide, in a microwave for 1 hour and 15 minutes at 115° C. 0.678 ml of a 1M aqueous solution of sodium hydroxide, 0.656 ml of a 30% aqueous solution of hydrogen peroxide and 3 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and ethanol (95/5 by volume), followed by crystallization from 1 ml of ethyl acetate and 4 ml of diisopropyl ether, 85 mg of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-(2-hydroxy-2-methylpropylamino)benzamide are thus obtained in the form of a beigey-ecru solid, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)carbazol-9-yl]benzonitrile | 150 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 148 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-amino-2-methylpropan-2-ol | 0.477 g | NCC(C)(O)C | C4H11NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-(2-hydroxy-2-methylpropylamino)benzamide | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3N(C4=CC=CC=C4C23)C2=CC(=C(C(=O)N)C=C2)NCC(C)(C)O)C1 | C30H26FN5O2
